US09212182B2
1-(5-Bromo-2-methoxy phenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.300 g, 0.630 mmol), (3-(trifluoromethyl)phenyl)boronic acid (0.179 g, 0.945 mmol), potassium carbonate (0.261 g, 1.890 mmol), and Pd(PPh3)4 (0.073 g, 0.063 mmol) were combined in 1,4-dioxane (2.362 ml) and water (0.787 ml). The reaction was heated to 90° C. for 3 h. The reaction was cooled to RT and quenched with NH4Cl (saturated aqueous solution), and extracted with DCM (×3) and the organics were then dried via phase separator and concentrated in vacuo. The material was purified via MPLC, eluting with 0-100% ethyl acetate in heptanes to yield N-(isoxazol-3-yl)-1-(4-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.149 g, 0.275 mmol, 43.7% yield) as a light yellow solid. MS (ESL pos. ion) m/z: [M+1] 542.2 NMR (400 MHz, DMSO-d6) □ ppm 3.74 (s, 3 H) 6.44 (d, J=1.76 Hz, 1 H) 6.82 (dd, J=9.24, 3.77 Hz, 2H) 7.42 (d, J=8.80 Hz, 1 H) 7.66-7.70 (m, 2 H) 7.84 (dd, J=9.05, 2.20 Hz, 1 H) 7.89 (d, J=2.45 Hz, 1 H) 7.97-8.07 (m, 3 H) 8.23 (d, J=9.49 Hz, 1 H) 8.38 (d, J=2.35 Hz, 1 H) 8.72 (d, J=1.76 Hz, 1 H) 11.65 (s, 1 H). N-3-Isoxazolyl-1-(4-methoxy-3′-(trifluoromethyl)-3-biphenylyl)-2-oxo-1,2-dihydro-6-quinolinesulfonamide was separated by chiral SFC on a Chiralpak AD with 35% MeOH to give (P)—N-3-isoxazolyl-1-(4-methoxy-3′-(trifluoromethyl)-3-biphenylyl)-2-oxo-1,2-dihydro-6-quinolinesulfonamide as peak 1 and (M)-N-3-isoxazolyl-1-(4-methoxy-3′-(trifluoromethyl)-3-biphenylyl)-2-oxo-1,2-dihydro-6-quinolinesulfonamide as peak 2, both as white solids. Data for peak 1: NMR (400 MHz, DMSO-d6) δ ppm 3.73 (s, 3 H) 6.16-6.27 (m, 1 H) 6.66-6.72 (m, 1 H) 6.72-6.77 (m, 1 H) 7.35-7.45 (m, 1 H) 7.64-7.69 (m, 2 H) 7.73-7.79 (m, 1 H) 7.83-7.87 (m, 1 H) 7.96-8.06 (m, 3 H) 8.13-8.20 (m, 1 H) 8.20-8.24 (m, 1 H) 8.35-8.43 (m, 1 H). MS (ESI, pos. ion) m/z: [M+1] 542.2; Data for peak 2: 1H NMR (400 MHz, DMSO-d6) δ ppm 3.73 (s, 3 H) 6.08-6.18 (m, 1 H) 6.58-6.67 (m, 1 H) 6.68-6.75 (m, 1 H) 7.36-7.44 (m, 1 H) 7.61-7.74 (m, 3 H) 7.80-7.86 (m, 1 H) 7.96-8.06 (m, 3 H) 8.11-8.18 (m, 2 H) 8.20-8.25 (m, 1 H); MS (ESL pos. ion) m/z: [M+1] 542.0.

reactant | 1-(5-Bromo-2-methoxy phenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.630 mmol, 0.300 g | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H14BrN3O5S
reactant | (3-(trifluoromethyl)phenyl)boronic acid | 0.945 mmol, 0.179 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 1.890 mmol, 0.261 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2.362 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.787 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.063 mmol, 0.073 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(isoxazol-3-yl)-1-(4-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.275 mmol, 0.149 g, 43.7% yield | O1N=C(C=C1)NS(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C=1C=C(C=CC1OC)C1=CC(=CC=C1)C(F)(F)F)=O | C26H18F3N3O5S
